US04435426
(a) 1-(8-oxo 5,6,7,8-tetrahydro 1-naphthyl oxy) 2,3-epoxy propane
To the solution heated to 80° C. of 3.2 g of 8-hydroxy 1-tetralone and 20 ml of epichlorohydrin in 20 ml of 2-methoxy ethanol is added 1.8 g of sodium hydroxide and the mixture is heated to reflux for 1 hour. Water is added and the mixture is extracted with methylene chloride. The organic phase is separated, dried and the solvent is evaporated.

reactant | 8-hydroxy 1-tetralone | 3.2 g | OC=1C=CC=C2CCCC(C12)=O | C10H10O2
reactant | epichlorohydrin | 20 ml | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 1.8 g | [OH-].[Na+]
reactant | Water | O | H2O
solvent | 2-methoxy ethanol | 20 ml | COCCO | C3H8O2
product | 1-(8-oxo 5,6,7,8-tetrahydro 1-naphthyl oxy) 2,3-epoxy propane | O=C1CCCC=2C=CC=C(C12)OCC1CO1 | C13H14O3
